US05834506
(S)-4-Hydroxy-6-phenethyl-6-phenyl-5,6-dihydro-pyran-2-one
The title compound was prepared as described in General Method 7 using 0.46 g (1.41 mmol) of (S)-5-hydroxy-3-oxo-5,7-diphenyl-heptanoic acid methyl ester from Example CC and 0.1N NaOH (450 mL). The reaction was stirred for 2 hours at room temperature then extracted with Et2O. The aqueous layer was decanted and acidified with 1N HCL, extracted with EtOAc, dried (MgSO4), and concentrated. Purification by silica gel chromatography, eluting with MeOH:CH2Cl2 (2:98) gave the title compound. 1H NMR (CDCl3) δ 2.25 (m, 2 H), 2.45 (m, 1 H), 2.70 (m, 1 H), 2.92 (dd, 2 H), 3.30 (dd, 2 H), 7.04-7.41 (m, 10 H).

reactant | (S)-5-hydroxy-3-oxo-5,7-diphenyl-heptanoic acid methyl ester | 1.41 mmol, 0.46 g | COC(CC(C[C@@](CCC1=CC=CC=C1)(C1=CC=CC=C1)O)=O)=O | C20H22O4
solvent | NaOH | 0.1N, 450 mL | [OH-].[Na+]
product | (S)-4-Hydroxy-6-phenethyl-6-phenyl-5,6-dihydro-pyran-2-one | OC1=CC(O[C@@](C1)(C1=CC=CC=C1)CCC1=CC=CC=C1)=O | C19H18O3
